US05242945
Cis-nonen-1-ol (10.0 g) is subjected to the cyclopropanation conditions as described in the preparation of Example 52. The resulting residue is taken up in 100 mL of dichloromethane at 0° C., followed by the addition of 800 mg of sodium bromide in 2 mL of water and 150 mg of 2,2,6,6-tetramethyl-1-piperidinyloxy, free radical. To this mixture is added 1.50 g of Aliquot 336 followed by the dropwise addition of 9.2 g of sodium bicarbonate in 230 mL of 5% NaOCl. The aqueous phase is made basic, separated from the organic phase and acidified with concentrated HCl, and then extracted three times with dichloromethane. The combined organic layers are washed with water, dried over MgSO4, and concentrated in vacuo to give cis-2-(2'-pentylcyclopropyl)acetic acid.

reactant | Cis-nonen-1-ol | 10.0 g | C(=C/CCCCCCC)/O | C9H18O
reactant | sodium bromide | 800 mg | [Br-].[Na+]
reactant | sodium bicarbonate | 9.2 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | NaOCl | 230 mL | [O-]Cl.[Na+]
product | cis-2-(2'-pentylcyclopropyl)acetic acid | C(CCCC)[C@@H]1[C@@H](C1)CC(=O)O | C10H18O2
